US07354933B2
A mixture of 0.89 g of 5,5-dimethyl-1-(7-methoxyquinolin-4-ylmethyl)-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione and 5.5 g of pyridine hydrochloride is heated at a temperature in the region of 220° C. for 4 hours. After cooling, 200 ml of water and 100 ml of CH2Cl2 are added. After separation of the phases by settling, the organic phase is dried over sodium sulfate, filtered and then concentrated under reduced pressure. The solid obtained is purified by flash chromatography (SiO2, EtOAc/CH2Cl2 40/60 by volume as eluent, Ar). The fractions containing the product are concentrated under reduced pressure. 85 mg of 5,5-dimethyl-1-(7-hydroxyquinoline-4-ylmethyl)-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione are thus obtained, the characteristics of which product are as follows:

reactant | 5,5-dimethyl-1-(7-methoxyquinolin-4-ylmethyl)-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione | 0.89 g | CC1(C(N(C(N1CC1=CC=NC2=CC(=CC=C12)OC)=O)C1=CC=C(C=C1)OC(F)(F)F)=O)C | C23H20F3N3O4
reactant | pyridine hydrochloride | 5.5 g | Cl.N1=CC=CC=C1
reactant | water | 200 ml | O | H2O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 5,5-dimethyl-1-(7-hydroxyquinoline-4-ylmethyl)-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione | 85 mg | CC1(C(N(C(N1CC1=CC=NC2=CC(=CC=C12)O)=O)C1=CC=C(C=C1)OC(F)(F)F)=O)C | C22H18F3N3O4
